US06441012B1
At ambient temperature a rapidly stirred solution of methyl 3-methyl-4-(2-methoxy-5-nitrophenoxy)butyrate(400 mg) in methanol (20 mL) containing 10% palladium on carbon (40 mg) was exposed to an atmosphere of hydrogen. When uptake of hydrogen had ceased the solution was filtered and the filter cake washed with methanol. The combined filtrates were evaporated to dryness under reduced pressure, to give methyl 3-methyl-4-(2-methoxy-5-aminophenoxy)butyrate as an oil. (317 mg) m/Z 254(M+H).

reactant | methyl 3-methyl-4-(2-methoxy-5-nitrophenoxy)butyrate | 400 mg | CC(CC(=O)OC)COC1=C(C=CC(=C1)[N+](=O)[O-])OC | C13H17NO6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
product | methyl 3-methyl-4-(2-methoxy-5-aminophenoxy)butyrate | CC(CC(=O)OC)COC1=C(C=CC(=C1)N)OC | C13H19NO4
